US04980509
Preparation of ethyl 6-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl) hydroxymethyl]-2-naphthylsulfone
To a suspension of 200 mg of ethyl 6-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl) carbonyl]-2-naphthylsulfone, obtained in accordance with Example XIV, in 30 cm3 of methanol cooled to 0° C., there are added 100 mg of sodium borohydride. The reaction mixture is maintained under stirring for 30 minutes, then it is returned to ambient temperature. After verification by thin layer chromatography of the disappearance of the starting carbonyl product, the alcohol is evaporated under reduced pressure and the residue is taken up in 100 cm3 of water and acidified with a solution of 1N HCl. The resulting precipitate is filtered and dried under a vacuum.

reactant | ethyl 6-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl) carbonyl]-2-naphthylsulfone | 200 mg | C(C)C1=C(C=CC2=CC(=CC=C12)C(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)S(=O)(=O)C1=C(C2=CC=C(C=C2C=C1)C(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)CC | C54H58O4S
reactant | sodium borohydride | 100 mg | [BH4-].[Na+]
solvent | methanol | 30 cm3 | CO | CH4O
product | ethyl 6-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl) hydroxymethyl]-2-naphthylsulfone | C(C)C1=C(C=CC2=CC(=CC=C12)C(O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)S(=O)(=O)C1=C(C2=CC=C(C=C2C=C1)C(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)O)CC | C54H62O4S
